US06982348B2
A mixture of ethyl 3-(4-fluorophenyl)-3-oxopropionate (10 g, 47.6 mmol), 3-trifluoromethylbenzyl chloride (8.33 g, 42.8 mmol), potassium carbonate (13.2 g, 95.1 mmol) and acetonitrile (200 ml) was stirred at 60° C. for 24 hrs. The reaction solution was concentrated under reduced pressure, water (200 ml) was added, and the mixture was extracted with ethyl acetate (200, 100 ml). The extract was washed with water, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:toluene=1:1-1:2-toluene) to give ethyl 3-(4-fluorophenyl)-3-oxo-2-(3-trifluoromethylbenzyl)propionate (10.2 g, 65%) as an oil.

reactant | ethyl 3-(4-fluorophenyl)-3-oxopropionate | 47.6 mmol, 10 g | FC1=CC=C(C=C1)C(CC(=O)OCC)=O | C11H11FO3
reactant | 3-trifluoromethylbenzyl chloride | 42.8 mmol, 8.33 g | FC(C=1C=C(CCl)C=CC1)(F)F | C8H6ClF3
reactant | potassium carbonate | 95.1 mmol, 13.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | ethyl 3-(4-fluorophenyl)-3-oxo-2-(3-trifluoromethylbenzyl)propionate | 10.2 g, 65% | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC(=CC=C1)C(F)(F)F)=O | C19H16F4O3
